US07576074B2
A solution of (3R,9aS)-hexahydro-1H-[1,4]oxazino[3,4-c][1,4]oxazin-3-ylmethyl methanesulfonate (0.215 g, 0.856 mmol), 4-[(4-bromo-3-chloro-2-fluorophenyl)amino]-6-(methyloxy)quinazolin-7-ol hydrochloride (0.247 g, 0.570 mmol), and potassium carbonate (0.400 g, 2.90 mmol) in DMF (1.9 mL) was heated in a sealed reaction tube at 75° C. for 12 h, then 90° C. for 12 h. The reaction mixture was concentrated in vacuo and the residue was partitioned between 10% methanol in ethyl acetate and saturated aqueous sodium bicarbonate. The layers were separated and the aqueous layer was extracted (3×50 mL 10% methanol in ethyl acetate). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by HPLC (reverse-phase, acetonitrile/water/0.1% TFA). Upon removal of solvent the product was taken up in methanol and treated with Bio-Rad AG 1-X8 resin (hydroxide form) until pH 8. The product was filtered and concentrated in vacuo then taken up in methanol and treated with 4.0 M hydrogen chloride in dioxane (0.10 mL). Removal of solvent in vacuo provided 32.1 mg (10%) of N-(4-bromo-3-chloro-2-fluorophenyl)-7-{[(3R,9aS)-hexahydro-1H-[1,4]oxazino[3,4-c][1,4]oxazin-3-ylmethyl]oxy}-6-(methyloxy)quinazolin-4-amine hydrochloride. MS (EI) for C23H23N4O4FClBr: 554 (M+).

reactant | (3R,9aS)-hexahydro-1H-[1,4]oxazino[3,4-c][1,4]oxazin-3-ylmethyl methanesulfonate | 0.856 mmol, 0.215 g | CS(=O)(=O)OC[C@H]1CN2[C@@H](COCC2)CO1 | C9H17NO5S
reactant | 4-[(4-bromo-3-chloro-2-fluorophenyl)amino]-6-(methyloxy)quinazolin-7-ol hydrochloride | 0.570 mmol, 0.247 g | Cl.BrC1=C(C(=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)OC)O)F)Cl
reactant | potassium carbonate | 2.90 mmol, 0.400 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.9 mL | CN(C)C=O | C3H7NO
product | N-(4-bromo-3-chloro-2-fluorophenyl)-7-{[(3R,9aS)-hexahydro-1H-[1,4]oxazino[3,4-c][1,4]oxazin-3-ylmethyl]oxy}-6-(methyloxy)quinazolin-4-amine hydrochloride | 32.1 mg, 10% | Cl.BrC1=C(C(=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1CN2[C@@H](COCC2)CO1)F)Cl | InChI=1S/C23H23BrClFN4O4.ClH/c1-31-19-6-15-18(27-12-28-23(15)29-17-3-2-16(24)21(25)22(17)26)7-20(19)34-11-14-8-30-4-5-32-9-13(30)10-33-14;/h2-3,6-7,12-14H,4-5,8-11H2,1H3,(H,27,28,29);1H/t13-,14+;/m0./s1
